US05486466
To a solution of 91.1 g of 3,5-dihydroxy-2,6 -dimethylbenzoic acid and 108.0 g of p-nitrobenzyl bromide were added 165.9 g of potassium carbonate. The mixture was heated at reflux under stirring for 4 hours. After cooling to room temperature, the mixture was filtered, and the unsoluble material was washed with 0.5 l of ethyl acetate. The filtrate was diluted with 0.5 l of ethyl acetate and washed with ice-cold 3N hydrochloric acid and with brine. The organic layer was dried over sodium sulfate and evaporated in vacuo. To the remaining, crystallizing oil were added 0.6 1 of tert-butylmethylether, and the suspension was stirred for 1 hour. Unsoluble material was filtered off and the filtrate was evaporated in vacuo. The remaining oil was dissolved in 300 ml of methylene chloride. Upon crystallization, 200 ml of hexane were added and the crystals isolated by filtration. This material was suspended once more in 400 ml of tert-butylmethylether and the unsoluble material was removed by filtration. Evaporation of the filtrate in vacuo and crystallization of the residue from methylene chloride/hexane afforded 98.8 g of p-nitrobenzyl 3,5-dihydroxy-2,6-dimethylbenzoate as yellow crystals of m.p. 164°-166° C.

reactant | 3,5-dihydroxy-2,6 -dimethylbenzoic acid | 91.1 g | OC=1C(=C(C(=O)O)C(=C(C1)O)C)C | C9H10O4
reactant | p-nitrobenzyl bromide | 108.0 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | potassium carbonate | 165.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | tert-butylmethylether | 400 ml | C(C)(C)(C)OC | C5H12O
product | p-nitrobenzyl 3,5-dihydroxy-2,6-dimethylbenzoate | 98.8 g | OC=1C(=C(C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=C(C1)O)C)C | C16H15NO6
